US04188338
13.1 g methyl 3-(3-methoxy-4-hydroxyphenyl)propionate (62.4 mmol) is dissolved in 150 ml dry N,N-dimethylformamide (DMF). After addition of 4.0 g 88% KOH (62.7 mmol) to this solution, the whole is stirred for 30 minutes, after which 7.55 g allyl bromide (62.4 mmol) in 120 ml dry DMF is added dropwise over a 30-minute period. After stirring for 11/2 hours at room temperature, the reaction mixture is poured out into 1700 ml saturated NaCl solution. Extraction with ethyl acetate, evaporation to dryness and chromatography on 150 g silica gel with tolueneethyl acetate (95:5) as eluent gives 12.4 g methyl 3-(3-methoxy-4-allyloxyphenyl)propionate as an oil. Rf in toluene:ethyl-acetate (85.15)=0.5 on SiO2.

reactant | methyl 3-(3-methoxy-4-hydroxyphenyl)propionate | 62.4 mmol, 13.1 g | COC=1C=C(C=CC1O)CCC(=O)OC | C11H14O4
reactant | KOH | 62.7 mmol, 4.0 g | [OH-].[K+]
reactant | allyl bromide | 62.4 mmol, 7.55 g | C(C=C)Br | C3H5Br
reactant | NaCl | 1700 ml | [Na+].[Cl-]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | DMF | 120 ml | CN(C=O)C | C3H7NO
product | methyl 3-(3-methoxy-4-allyloxyphenyl)propionate | 12.4 g | COC=1C=C(C=CC1OCC=C)CCC(=O)OC | C14H18O4
